US08110687B2
A solution of 6-hydroxy-2H-chromene-3-carboxylic acid (2.00 g, 10.4 mmol) in MeOH (100 mL) was degassed. To this solution was added Pd/C (5 wt %, 1.32 g). The reaction mixture was allowed to stir at rt under an atmosphere of hydrogen for 3 h and then filtered through Celite. Concentration of the filtrate gave 6-hydroxychromane-3-carboxylic acid (1.52 g, 75%). LCMS: ES− 193.1.

reactant | 6-hydroxy-2H-chromene-3-carboxylic acid | 10.4 mmol, 2.00 g | OC=1C=C2C=C(COC2=CC1)C(=O)O | C10H8O4
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 1.32 g | [Pd] | Pd
product | 6-hydroxychromane-3-carboxylic acid | 1.52 g, 75% | OC=1C=C2CC(COC2=CC1)C(=O)O | C10H10O4
